US07153849B2
(2S)-2-{[4-(3-methoxyphenyl)piperazin-1-yl]methyl}-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
A mixture of [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate (702 mg, 1.56 mmol) and 3-methoxyphenyl piperazine (890 mg, 4.63 mmol) in anhydrous DMSO (10 mL) were heated at 65° C. overnight. The cooled reaction mixture was diluted with saturated aqueous sodium bicarbonate (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. Flash chromatography on silica gel (50% EtOAc/hexanes) afforded 560 mg (88%) of the desired product as a white solid: mp 90–91° C.; MS (ESI) m/z 406 [M+H]+.

reactant | [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate | 1.56 mmol, 702 mg | BrC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C19H16BrNO5S
reactant | 3-methoxyphenyl piperazine | 4.63 mmol, 890 mg | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | (2S)-2-{[4-(3-methoxyphenyl)piperazin-1-yl]methyl}-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | 560 mg, 88% | COC=1C=C(C=CC1)N1CCN(CC1)C[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C24H27N3O3
